US04094870
To a solution of 4.8 g of 1,3-dihydro-5-(2-chlorophenyl)-7-chloro-2H-1,4-benzodiazepine-2-thione in a solvent mixture comprising 28 ml of a 10% aqueous potassium hydroxide solution and 1 ml of tetrahydrofuran is added at room temperature with stirring 3.6 g of N,N-dimethyl-2-chloropropylamine hydrochloride, and the resulting mixture is stirred at room temperature for 2 hours and 30 minutes. The mixture is diluted with a saturated aqueous sodium chloride solution and then extracted with ether. The extract is washed with water and dried, and the solvent is removed by distillation under reduced pressure. An oily product obtained as the residue is subjected to column chromatography on silica gel to obtain 3.9 g of crude 2-(1-methyl-2-dimethylaminoethylthio)-5-(2-chlorophenyl)-7-chloro-3H-1,4-benzodiazepine as free base. The crude product is dissolved in acetone and added with 1.1 g of fumaric acid. The solvent is removed by distillation under reduced pressure to obtain crude 2-(1-methyl-2-dimethylaminoethylthio)-5-(2-chlorophenyl)-7-chloro-3H-1,4-benzodiazepine fumarate. Recrystallization from a mixture of isopropyl alcohol, methyl alcohol and ether gives 4.1 g of 2-(2-dimethylamino-1-methylethylthio)-5-(2-chlorophenyl)-7-chloro-3H-1,4-benzodiazepine fumarate, m.p. 178°-180° C., yield 52.5%.

reactant | 1,3-dihydro-5-(2-chlorophenyl)-7-chloro-2H-1,4-benzodiazepine-2-thione | 4.8 g | ClC1=C(C=CC=C1)C1=NCC(NC2=C1C=C(C=C2)Cl)=S | C15H10Cl2N2S
reactant | potassium hydroxide | [OH-].[K+]
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
reactant | N,N-dimethyl-2-chloropropylamine hydrochloride | 3.6 g | Cl.CN(C)CC(C)Cl
solvent | sodium chloride | [Cl-].[Na+]
product | 2-(1-methyl-2-dimethylaminoethylthio)-5-(2-chlorophenyl)-7-chloro-3H-1,4-benzodiazepine | 3.9 g | CC(CN(C)C)SC1=NC2=C(C(=NC1)C1=C(C=CC=C1)Cl)C=C(C=C2)Cl | C20H21Cl2N3S
